US04647698
Following the procedure of Example 1, 4-[4-(1-methylpropoxy)phenyl]-2-butanone (4.41 g, 20.0 mmol) and pyridine (3 ml) in 45 ml of tetrahydrofuran are reacted with ethoxyamine hydrochloride (4.41 g, 45.2 mmol) to give 4-[4-(1methylpropoxy)phenyl]-2-butanone O-ethyloxime, as a mixture of syn and anti stereo isomers. MS m/e 263 (M ).

reactant | 4-[4-(1-methylpropoxy)phenyl]-2-butanone | 20.0 mmol, 4.41 g | CC(CC)OC1=CC=C(C=C1)CCC(C)=O | C14H20O2
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | ethoxyamine hydrochloride | 45.2 mmol, 4.41 g | Cl.C(C)ON
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 4-[4-(1methylpropoxy)phenyl]-2-butanone O-ethyloxime | C(C)ON=C(C)CCC1=CC=C(C=C1)OC(CC)C | C16H25NO2
